US07312330B2
4-(4-(Trifluoromethyl)phenylamino)-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-2-ol
Sodium hydride (40 mg, 1 mmol, 60%) was added to a solution of 2-(methansulphonyl)ethanol (124 mg, 1 mmol) in DMF (5 mL, anhydrous) and stirred at room temperature for 10 min. This mixture (0.6 mL) was added to a solution of 7-(3-chloropyridin-2-yl)-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2-(methylsulfonyl)pyrido[3,4-d]pyrimidin-4-amine (50 mg, 0.1 mmol) in DMF (1 mL) and was heated in a sealed tube via microwave at 150° C. for 20 min. Solvent was removed in vacuo and the residue was purified by column chromatography to yield the product as a light brown solid (5 mg).

reactant | Sodium hydride | 1 mmol, 40 mg | [H-].[Na+]
reactant | 2-(methansulphonyl)ethanol | 1 mmol, 124 mg | CS(=O)(=O)CCO | C3H8O3S
reactant | 7-(3-chloropyridin-2-yl)-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2-(methylsulfonyl)pyrido[3,4-d]pyrimidin-4-amine | 0.1 mmol, 50 mg | ClC=1C(=NC=CC1)N1CC=2N=C(N=C(C2CC1)NC1=CC=C(C=C1)C(F)(F)F)S(=O)(=O)C | C20H17ClF3N5O2S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-(4-(Trifluoromethyl)phenylamino)-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-2-ol | 5 mg | FC(C1=CC=C(C=C1)NC=1C2=C(N=C(N1)O)CN(CC2)C2=NC=CC=C2Cl)(F)F | C19H15ClF3N5O
